US09315458B2
A) methyl 5-bromo-2-hydroxy-4-methoxybenzoate
To a solution of 5-bromo-2-hydroxy-4-methoxybenzoic acid (2.00 g) in methanol (10.0 mL) was added 0.6M (diazomethyl)trimethylsilane/hexane solution (14.8 mL) under ice-cooling, and the mixture was stirred for 3 hr. To the reaction mixture was added acetic acid (0.12 mL), and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.08 g).

reactant | 5-bromo-2-hydroxy-4-methoxybenzoic acid | 2.00 g | BrC=1C(=CC(=C(C(=O)O)C1)O)OC | C8H7BrO4
reactant | (diazomethyl)trimethylsilane hexane | 0.6M, 14.8 mL | [N+](=[N-])=C[Si](C)(C)C.CCCCCC
reactant | acetic acid | 0.12 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 10.0 mL | CO | CH4O
product | methyl 5-bromo-2-hydroxy-4-methoxybenzoate | 2.08 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)OC | C9H9BrO4
